Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:1].[C:2]=[C:3]([H:4])[O:5][O:6]>>[C:1]#[C:2][C:3]([H:4])[O:5][O:6],-7.1408735527100005
[C:6]([H:7])([H:8])=[C:9]([H:10])[H:11].[O:1][O:2][C:3]([H:4])=[C:5]>>[O:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],-1.5002812107
[H:1][C:2]/[C:3]([H:4])=[C:5](\[C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:5]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:4],1.3310325361700002
[H:1][O:2][C:3](=[C:4]=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.12653888225
[C:1]=[C:2]([O:3][C:4]=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])[H:7].[C:8]([H:9])([H:10])[H:11],3.08620436841
[C:8]([H:9])[O:10][C:11]([H:12])([H:13])[H:14].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])([H:13])[H:14],-1.33377181557
[C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[H:1]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])=[C:7]([H:8])[H:9],-5.56009228411
[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])([H:4])[O:5][C:6]#[C:7][C:8]([H:9])([H:10])[H:11],1.5999489677899998
[H:1][C:2]([H:3])([H:4])[C:5][O:6]/[C:7]([H:8])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:9]>>[H:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.6498953153
[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][H:5]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-5.53161183
[H:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:9]/[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:8]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-1.76645479368
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2],5.05047485977
[H:1][O:2][C:3]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4]>>[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],-4.14790632956
[C:1]#[C:2][C:4]([O:5][O:6])=[C:7]([H:8])[H:9].[H:3]>>[C:1]=[C:2]([H:3])[C:4]([O:5][O:6])=[C:7]([H:8])[H:9],-3.76308400606
[H:4].[O:1]=[C:2]([H:3])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-1.26988586721
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.7302240836
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([O:7][H:8])[O:9][H:10]>>[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([O:7][H:8])[O:9][H:10],1.00084655829
[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10]>>[H:1][C:2].[O:3]=[C:4]=[C:5]([H:6])[C:7]([H:8])([H:9])[H:10],1.97595847323
[H:1].[O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-4.59912360794
[C:3]#[C:4][O:5][H:6].[O:1]=[C:2]>>[O:1]=[C:2]=[C:3][C:4][O:5][H:6],-2.7261045752599995
[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1][O:2][C:3](=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],4.55171439134
[C:1]#[C:2][O:3][C:4]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.44843912807
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9],-5.975506983740001
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:13]([H:14])([H:15])[H:16],1.1472407798100002
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:6]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-2.91426484418
[O:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:4].[O:1][O:2][C:3][C:5]([H:6])[H:7],4.44615436448
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][C:2]#[C:3][C:4]([H:5])[O:6][H:7],3.64511228962
[O:1]=[C:2]([H:3])[C:4](=[O:5])[C:6]([H:7])([H:8])[H:9]>>[H:3].[O:1]=[C:2]=[C:4]([O:5])[C:6]([H:7])([H:8])[H:9],3.6329999929
[O:1]=[C:2]=[C:3][O:4][C:5][C:6]([H:7])([H:8])[H:9]>>[C:5][C:6]([H:7])([H:8])[H:9].[O:1][C:2]#[C:3][O:4],3.6115775029
